US04294960
4-Nitrobenzyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 5.0 g.), 10% palladium carbon (3.0 g.), methanol (100 ml.), water (10 ml.) and tetrahydrofuran (150 ml.) were treated in a similar manner to that of Example 37-(2), to give 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.28 g.).

reactant | 4-Nitrobenzyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 5.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NO | C19H15ClN6O7S2
reactant | methanol | 100 ml | CO | CH4O
reactant | water | 10 ml | O | H2O
catalyst | palladium carbon | 3.0 g | [C].[Pd]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.28 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NO | C12H10ClN5O5S2
